Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fibroids
 
Major Surgical or Invasive Procedure:
Total LAPAROSCOPIC hysterectomy 
Bilateral salpingectomy
Lysis of adhesions
Removal of pelvic cyst
Cystoscopy

 
History of Present Illness:
___ G4 P3 013 (VD ×3, SAB ×1) premenopausal ___ 
speaking Hispanic female with known fibroid uterus.  The patient 
reports a long history of abnormal uterine bleeding that has 
been ongoing for more than ___ years.  She has
___ bleeding episodes per month lasting 7 days with extremely 
heavy for the passage of clots with increasing dysmenorrhea. 
Roughly ___ year ago, under her PCPs care, she trialed 3 different 
combined oral contraceptive pills over 6 month period for 
medical treatment of her bleeding and fibroids.  Unfortunately, 
her bleeding was worse on the COC's with no improvement.  

 
Past Medical History:
OBSTETRIC HISTORY: G4 P3 013.
- term vaginal delivery ×3 (___)
- SAB ×1

GYNECOLOGIC HISTORY:  
- Menarche age ___, LMP ___.
- Irregular cycles with ___ periods/mo x 7 days extremely heavy
consistent with menorrhagia, increasing  dysmenorrhea.
- Pt is sexually active, heterosexual.
- Contraception: s/p PPTL .
- STD History: Denies.

GYN HEALTHCARE MAINTENANCE:
- Last PAP (___): Negative SIL, POSS bv; HPV negative.
- Denies h/o abnormal PAP. 
- Last mammogram (___): Reportedly negative.

MEDICAL PROBLEMS:  
1.  PPD positive
2.  Enlarged fibroid uterus
3.  Abdominal bleeding/menorrhagia
4.  Severe anemia

SURGICAL HISTORY:  
1.  ___, tonsillectomy
2.  ___, postpartum tubal ligation
3.  ___, Abdominoplasty
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
General: NAD
Abdomen: soft, ND, NT, +BS, no r/g, incisions clean/dry/intact 
x4
GU: pad with minimal spotting, foley with clear urine
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
___ 06:56AM   PLT COUNT-250
___ 06:56AM   WBC-6.3 RBC-4.52 HGB-9.6* HCT-32.8* MCV-73* 
MCH-21.2* MCHC-29.3* RDW-20.8* RDWSD-51.0*
 
Brief Hospital Course:
On ___, Ms. ___ underwent a ___ LAPAROSCOPIC 
hysterectomy, Bilateral salpingectomy, Lysis of adhesions, 
Removal of pelvic cyst, and Cystoscopy for definitive surgical 
treatment of fibroids, abnormal uterine bleeding, and anemia.  
Please see the operative report for full details.  She was 
admitted to the gynecology service for observation overnight 
given urinary retention and nausea in the recovery room.  The 
foley was reinserted in the PACU.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
On post-operative day 1, her nausea had resolved.  Her urine 
output was adequate and her foley was removed on POD#1.  She 
voided spontaneously. Her diet was advanced without difficulty 
and she was transitioned to acetaminophen, ibuprofen, and 
dilaudid. By post-operative day 1, she was tolerating a regular 
diet, voiding spontaneously, ambulating independently, and pain 
was controlled with oral medications. She was then discharged 
home in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: first order complete
Do not exceed 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Discontinue oxycodone
___ cause drowsiness. Do not drive or drink alcohol. ** Pt had 
adverse reaction to oxycodone** 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*50 Tablet Refills:*0
RX *hydromorphone 2 mg ___ tablet(s) by mouth q4h prn Disp #*50 
Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___